US04308270
To 3.08 g. of 3-phenyl-6-(1,2,3,4-tetrahydro-2-isoquinolyl)-methyl-5,6-dihydro-4H-1,2,4-oxadiazine 50 ml. of absolute acetone, 1.0 ml. of chlorocarbonic acid ethyl ester and 1.0 g. of anhydrous potassium carbonate are added. The reaction mixture is refluxed for 6 hours. The insoluble substances are filtered off while hot and the solvent is evaporated. After recrystallization of the residue from cyclohexane 1.18 g. of 3-phenyl-4-ethoxycarbonyl-6-(1,2,3,4-tetrahydro-2-isoquinolyl)-methyl-5,6-dihydro-1,2,4-oxadiazine are obtained, melting at 114° to 116° C.

reactant | 3-phenyl-6-(1,2,3,4-tetrahydro-2-isoquinolyl)-methyl-5,6-dihydro-4H-1,2,4-oxadiazine | 50 ml | C1(=CC=CC=C1)C1=NOC(CN1C)N1CC2=CC=CC=C2CC1 | C19H21N3O
reactant | chlorocarbonic acid ethyl ester | C(C)OC(=O)Cl | C3H5ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 3-phenyl-4-ethoxycarbonyl-6-(1,2,3,4-tetrahydro-2-isoquinolyl)-methyl-5,6-dihydro-1,2,4-oxadiazine | C1(=CC=CC=C1)C1=NOC(C(N1C(=O)OCC)C)N1CC2=CC=CC=C2CC1 | C22H25N3O3
